US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 18-1 in Scheme 6 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide (prepared in analogy to the one in Example 18-1) and oxetane-3,3-diyldimethanamine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.11 (s, 1 H), 7.86-7.75 (m, 3 H), 7.59-7.51 (m, 3 H), 7.67 (t, J=3.6 Hz, 1 H), 7.57 (d, J=2.1 Hz, 1 H), 6.22 (s, 1 H), 5.45 (d, J=16.4 Hz, 1 H), 5.10 (brs, 1 H), 4.76 (brs, 1 H), 4.60 (m, 4 H), 3.94 (d, 2 H), 4.52 (s, 2 H), 3.47 (s, 2 H), 2.46 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C19H17ClN2OS
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C24H28N4O2S
